US08536187B2
Synthesis of (R)-4-(1-(4-cyclopropoxy-6-(2-cyclopropylethynyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide
A mixture of 4-[1-(6-Chloro-4-cyclopropoxy-pyrido[3,2-d]pyrimidin-2-ylamino)-ethyl]-benzenesulfonamide (300 mg, 0.71 mmol), PdCl2(PPh3)2 (25 mg, 0.035 mmol), CuI (13.5 mg, 0.07 mmol) in TEA (1 mL) and DMF (5 mL) was degassed for 10 min then purged with argon. Ethynyl-cyclopropane (0.3 mL, 3.5 mmol) was added and the reaction tube was sealed and heated at 80° C. for 3 hours. After cooling to room temperature, the reaction mixture was poured into water and extracted twice with EtOAc. The combined organic layers were washed with 5% LiCl solution and brine. Solvent was removed by concentration in vacuo and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, to provide 248 mg (62%) of desired product. MS (m/z) 450.0 [M+H]+; HPLC Rt=2.16 min.

reactant | 4-[1-(6-Chloro-4-cyclopropoxy-pyrido[3,2-d]pyrimidin-2-ylamino)-ethyl]-benzenesulfonamide | 0.71 mmol, 300 mg | ClC=1C=CC=2N=C(N=C(C2N1)OC1CC1)NC(C)C1=CC=C(C=C1)S(=O)(=O)N | C18H18ClN5O3S
reactant | Ethynyl-cyclopropane | 3.5 mmol, 0.3 mL | C(#C)C1CC1 | C5H6
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.035 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.07 mmol, 13.5 mg | [Cu]I
product | (R)-4-(1-(4-cyclopropoxy-6-(2-cyclopropylethynyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | 248 mg, 62% | C1(CC1)OC=1C2=C(N=C(N1)N[C@H](C)C1=CC=C(C=C1)S(=O)(=O)N)C=CC(=N2)C#CC2CC2 | C23H23N5O3S
